* C:\Users\Aarranon\ElectronicsProjects\1KHz Sine Source\main.asc
XU1 N004 N003 N001 0 N002 LM358
R1 N002 N004 2.4k
R2 N004 N005 6.8k
R3 N003 N002 2.45k
C1 N003 N005 100n
V1 N005 0 5.75
V2 N001 N005 6.25
.tran 60m
.lib C:\Users\Aarranon\Documents\LTspiceXVII\3rdPartyModels\LMx58_LM2904.CIR
.backanno
.end
